US05780465
32. Preparation of 5-(2,2-Dimethyl-6-phenylsulfonylaminoindan-1-yl)-4-methylthiopyrimidine (Cpd. 208)
To a solution of 1.0 g (3.5 mmol) of 5-(6-amino-2,2-dimethylindan-1-yl)-4-methylthiopyrimidine in 20 mL of dry pyridine was added with stirring 0.45 g (3.7 mmol) of benzenesulfonyl chloride. The mixture was allowed to react for 16 hr and was then poured into dilute aqueous hydrochloric acid with stirring. The resulting mixture was extracted with ether and the ethereal extract was dried over magnesium sulfate, filtered, and concentrated by evaporation under reduced pressure. The remaining oil was diluted with a small amount of dichloromethane and then hexane was added. The precipitate that formed was collected by filtration and dried under reduced pressure to obtain 700 mg (88 percent of theory) of the title compound as a tan solid melting at 174°-176° C.

reactant | 5-(6-amino-2,2-dimethylindan-1-yl)-4-methylthiopyrimidine | 3.5 mmol, 1.0 g | NC1=CC=C2CC(C(C2=C1)C=1C(=NC=NC1)SC)(C)C | C16H19N3S
reactant | benzenesulfonyl chloride | 3.7 mmol, 0.45 g | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
reactant | hydrochloric acid | Cl | ClH
solvent | pyridine | 20 mL | N1=CC=CC=C1 | C5H5N
product | 5-(2,2-Dimethyl-6-phenylsulfonylaminoindan-1-yl)-4-methylthiopyrimidine | CC1(C(C2=CC(=CC=C2C1)NS(=O)(=O)C1=CC=CC=C1)C=1C(=NC=NC1)SC)C | C22H23N3O2S2
